US05073629
Ethylenediamine was added to a solution of 2-dimethylamino-4,4-diphenyl-5-oxononanal (12 mg), as prepared in Example 1, in methanol (0.5 ml). After the mixture was stirred at room temperature, sodium cyanoborohydride (10 mg) was added. The mixture was stirred at room temperature for 18 hours, water was added, and the aqueous mixture was extracted with chloroform. The combined extracts were washed with brine and dried (MgSO4). Rotary evaporation gave a crude product which was further dried in vacuo to yield 4 mg of N-(2-aminoethyl)-8-dimethylamino-6,6-diphenyl-5-hydroxynonylamine.

reactant | Ethylenediamine | C(CN)N | C2H8N2
reactant | 2-dimethylamino-4,4-diphenyl-5-oxononanal | 12 mg | CN(C(C=O)CC(C(CCCC)=O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H29NO2
reactant | sodium cyanoborohydride | 10 mg | C(#N)[BH3-].[Na+]
reactant | water | O | H2O
solvent | methanol | 0.5 ml | CO | CH4O
product | N-(2-aminoethyl)-8-dimethylamino-6,6-diphenyl-5-hydroxynonylamine | 4 mg | NCCNCCCCC(C(CC(C)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)O | C25H39N3O
